US07208493B2
6-{[2-(3,4-Dimethoxy-phenyl)ethylamino]-methyl}-2,4-pteridinediamine
To a solution of 6-bromomethyl-2,4-pteridinediamine hydrobromide (55 mg, 0.1638 mmol) in anhydrous N,N dimethylacetamide was added 2-(3,4-dimethoxyphenyl) ethylamine hydrochloride (55 ul, 0.32 mmol). The reaction mixture was stirred at 50° C. overnight. The crude product was poured into saturated bicarbonate solution. The resulted precipitate was collected and purified by preparative HPLC. 3.8 mg product was obtained. Yield: 19.6%; 1H NMR (500 MHz, DMSO-d6): δ 2.75943–2.79062 (t, J=7.37 Hz, 2H), 2.92110–2.95356 (t, J=7.365 Hz, 2H), 3.72197(s, 3H), 3.75135(s, 3H), 4.54559(s, 2H), 6.74441–6.77765 (dd, J1=8.26 Hz, J2=1.955 Hz, 1H), 6.84994 (s, 1H), 6.88406–6.90401 (dd, J1=8.195 Hz, J2=1.735 Hz, 1H); 8.87126(s, 1H); ESI-MS: m/z 356 (M++1)

reactant | 6-bromomethyl-2,4-pteridinediamine hydrobromide | 0.1638 mmol, 55 mg | Br.BrCC=1N=C2C(=NC(=NC2=NC1)N)N
reactant | 2-(3,4-dimethoxyphenyl) ethylamine hydrochloride | 0.32 mmol, 55 ul | Cl.COC=1C=C(C=CC1OC)CCN
reactant | bicarbonate | C([O-])(O)=O
solvent | N,N dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 6-{[2-(3,4-Dimethoxy-phenyl)ethylamino]-methyl}-2,4-pteridinediamine | 3.8 mg, Yield: 19.6% | COC=1C=C(C=CC1OC)CCNCC=1N=C2C(=NC(=NC2=NC1)N)N | C17H21N7O2
